US07968711B2
2-(3,5-Dichlorophenyl)-5-hydroxypyridazin-3-one
2-(3,5-Dichlorophenyl)-5-methoxypyridazin-3-one (0.25 g, 0.92 mmoles) was suspended in ethanol (40 ml) and potassium hydroxide (0.12 g, 1.8 mmoles) was added in water (5 ml). Refluxed overnight with stirring to give a yellow solution. Evaporated to dryness and added 2M hydrochloric acid. Extracted with ethyl acetate (×2) and washed with water and dried over anhydrous magnesium sulphate. Filtered and evaporated to give a yellow solid. Triturated with dichloromethane to give a pale yellow solid. (0.1 g, 42%)

reactant | 2-(3,5-Dichlorophenyl)-5-methoxypyridazin-3-one | 0.92 mmoles, 0.25 g | ClC=1C=C(C=C(C1)Cl)N1N=CC(=CC1=O)OC | C11H8Cl2N2O2
reactant | potassium hydroxide | 1.8 mmoles, 0.12 g | [OH-].[K+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2-(3,5-Dichlorophenyl)-5-hydroxypyridazin-3-one | ClC=1C=C(C=C(C1)Cl)N1N=CC(=CC1=O)O | C10H6Cl2N2O2
